US04835166
6-(3-Phenylpropyl)amino-2-benzoxazolone
To a suspension of 6-amino-2-benzoxazolone (6.00 g) and molecular sieves 4A (10.0 g) in dry benzene (100 ml) was added 3-phenylpropanal (5.25 ml), and then the mixture was stirred at room temperature for 1 hour. Methanol (150 ml) was combined with this and sodium borohydride (1.50 g) was added in portions at room temperature. The reaction mixture was filtered, the filtrate was concentrated and 5% sodium bicarbonate was added. The organic material was extracted with dichloromethane. The dichloromethane phase was separated, washed with brine. Drying and removal of solvent under reduced pressure gave a crude product which was crystallized from hot ethanol to afford 7.07 g of the title compound: mp 129°-130° C.

reactant | 6-amino-2-benzoxazolone | 6.00 g | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | 3-phenylpropanal | 5.25 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | Methanol | 150 ml | CO | CH4O
reactant | sodium borohydride | 1.50 g | [BH4-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 6-(3-Phenylpropyl)amino-2-benzoxazolone | 7.07 g | C1(=CC=CC=C1)CCCNC1=CC2=C(NC(O2)=O)C=C1 | C16H16N2O2
